US05962487
To a solution of (S)-pyrrolidin-2-thione-5-carboxylic acid t-butyl ester (1.75 g, 8.71 mmol) in 35 mL of dry THF was added MeI (2.2 mL, 34.83 mmol) at rt. The mixture was stirred at rt for 3 h and concentrated under vacuum. CH2Cl2 was added to the resulting oil which was poured into a sat. solution of NaHCO3. This was extracted 3 times with CH2Cl2, dried over MgSO4, and concentrated to provide (S)-2-methylsulfanyl-3,4-dihydro-5H-pyrrole-5-carboxylic acid t-butyl ester (1.63 g, 87%) as a brown oil which was used without further purification 1H NMR (CDCl3) δ 1.46 (s, 9H), 2.09 (m, 1H), 2.28 (m, 1H), 2.48 (s, 3H), 2.56-2.80 (m, 2H), 4.59 (m, 1H). MS calcd for C10H17NO2S+H, 216, found 216.

reactant | (S)-pyrrolidin-2-thione-5-carboxylic acid t-butyl ester | 8.71 mmol, 1.75 g | C(C)(C)(C)OC(=O)[C@@H]1CCC(N1)=S | C9H15NO2S
reactant | MeI | 34.83 mmol, 2.2 mL | CI | CH3I
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (S)-2-methylsulfanyl-3,4-dihydro-5H-pyrrole-5-carboxylic acid t-butyl ester | 1.63 g, 87% | C(C)(C)(C)OC(=O)[C@@H]1CCC(=N1)SC | C10H17NO2S
